US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(4-morpholino-3-nitrobenzylidene)thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (35 mg, 0.21 mmol) and 4-morpholino-3-nitrobenzaldehyde (68 mg, 0.287 mmol) similar to Example 3 and isolated as a yellow solid (42 mg, 52%). 1H NMR (CDCl3): 9.91 (s, 1H), 7.90 (d, J=2.1 Hz, 1H), 7.22 (s, 1H), 7.58 (dd, J=8.8, 2.4 Hz, 1H), 7.18 (d, J=2.4 Hz, 1H), 7.01 (d, J=8.8 Hz, 1H), 6.10 (ddd, J=8.1, 5.1, 2.7 Hz, 2H), 4.27 (t, J=8.7 Hz, 1H), 3.75-3.72 (m, 4H), 3.02-2.99 (m, 4H), 2.93 (s, 1H), 2.85 (s, 1H), 1.82 (ddd, J=7.6, 7.0, 2.4 Hz, 1H), 1.57 (m, 1H), 1.39-1.28 (m, 2H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.21 mmol, 35 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | 4-morpholino-3-nitrobenzaldehyde | 0.287 mmol, 68 mg | O1CCN(CC1)C1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C11H12N2O4
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(4-morpholino-3-nitrobenzylidene)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CC2=CC(=C(C=C2)N2CCOCC2)[N+](=O)[O-])=S | C19H23N5O3S
